US07943652B2
Step b: Preparation of 2-ethyl-pyrazolo[1,5-a]pyridine-3-carbaldehyde
To a solution of (2-ethyl-pyrazolo[1,5-a]pyridin-3-yl)-methanol (9.67 g, 54.9 mmol) in tetrahydrofuran (500 mL) was added MnO2 (23.88 g, 274.5 mmol, 85%, dried in oven at 120° C. for 16 h) and stirred at the reflux temperature for 1.5 h. The reaction mixture was filtered through a Celite pad, and concentrated under reduced pressure to give 9.4 g (98%) of product, which was used without further purification.

reactant | (2-ethyl-pyrazolo[1,5-a]pyridin-3-yl)-methanol | 54.9 mmol, 9.67 g | C(C)C1=NN2C(C=CC=C2)=C1CO | C10H12N2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
catalyst | MnO2 | 274.5 mmol, 23.88 g | O=[Mn]=O
product | 2-ethyl-pyrazolo[1,5-a]pyridine-3-carbaldehyde | 9.4 g, 98% | C(C)C1=NN2C(C=CC=C2)=C1C=O | C10H10N2O
